US08802673B2
tert-Butyl (RS)-2-(6-aminopyridin-3-yl)morpholine-4-carboxylate (55 mg), 2,5-dichloropyridine (29 mg, CAS 16110-09-1) and cesium carbonate (96 mg) were combined with dioxane (2 ml) to give a yellow suspension. The mixture was degassed by bubbling argon into the mixture for several minutes. Xantphos (6.84 mg) and tris(dibenzylideneacetone)dipalladium chloroform complex (6.11 mg) were then added. The reaction mixture was then capped and stirred at 100° C. overnight. The crude reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography (silica gel; gradient: 0% to 80% EtOAc in hexanes) to afford tert-butyl 2-(6-(5-chloropyridin-2-ylamino)pyridin-3-yl)morpholine-4-carboxylate (22 mg, 29%) as a yellow solid. MS (ISP): 393.2 ([{37Cl}M+H]+), 391.2 ([{35Cl}M+H]+).

reactant | tert-Butyl (RS)-2-(6-aminopyridin-3-yl)morpholine-4-carboxylate | 55 mg | NC1=CC=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C | C14H21N3O3
reactant | 2,5-dichloropyridine | 29 mg | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | cesium carbonate | 96 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 2-(6-(5-chloropyridin-2-ylamino)pyridin-3-yl)morpholine-4-carboxylate | 22 mg, 29% | ClC=1C=CC(=NC1)NC1=CC=C(C=N1)C1CN(CCO1)C(=O)OC(C)(C)C | C19H23ClN4O3
